US05998433
b) Synthesis of (Z)-N,N-dimethyl-[6-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.250 g (0.759 mmol) of (Z)-6-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 20 ml of acetic acid, 0.10 ml (1.1 mmol) of 50% aqueous dimethylamine and 0.09 ml (1.1 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 45 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate, and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform/methanol=50/1) to yield the desired product.

reactant | (Z)-6-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.759 mmol, 0.250 g | C1(=CC=C(C=C1)C(=O)N1CC2=C(CC1)C=CO2)\C=C/C2=CC=CC=C2 | C22H19NO2
reactant | dimethylamine | 1.1 mmol, 0.10 ml | CNC | C2H7N
reactant | formaldehyde | 1.1 mmol, 0.09 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (Z)-N,N-dimethyl-[6-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=C(C=C2)\C=C/C2=CC=CC=C2)O1 | C25H26N2O2
